US05166170
2,2-Dimethyl-N-[2-(2,3-dihydro-1H-indol-2-yl)phenyl]propanamide
Trimethylacetyl chloride (3.6 ml) was added dropwise to a solution of 5.8 g 2-(2-aminophenyl)-2,3-dihydro-1H-indole and 4.3 ml Et3N in 75 ml CH2Cl2 with ice bath cooling. The resulting mixture was stirred at room temperature for thirty minutes and then quenched with water. The organic extract was washed with water, saturated NaHCO3 solution and saturated NaCl solution and dried (MgSO4). Concentration gave 7.7 g crude product which was flash chromatographed using CH2Cl2 as eluent to give 4.9 g solid, m.p. 175°-178° C.

reactant | Trimethylacetyl chloride | 3.6 ml | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 2-(2-aminophenyl)-2,3-dihydro-1H-indole | 5.8 g | NC1=C(C=CC=C1)C1NC2=CC=CC=C2C1 | C14H14N2
reactant | Et3N | 4.3 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-N-[2-(2,3-dihydro-1H-indol-2-yl)phenyl]propanamide | 4.9 g | CC(C(=O)NC1=C(C=CC=C1)C1NC2=CC=CC=C2C1)(C)C | C19H22N2O
